US06706743B2
Benzyl-{2-[4-(4-phenyl-thiazol-2-yl)-phenoxy]-ethyl}-carbamate
4-(4-Phenyl-thiazol-2-yl)-phenol (516 mg, 2.03 mmol) was dissolved in toluene (6.8 ml), and triphenylphosphine (786 mg, 3.00 mmol) and benzyl N-(2-hydroxyethyl)-carbamate (585 mg, 3.00 mmol) were added. The solution was cooled to about 0° C. and 1,1-(azodicarbonyl)-dipiperidine (757 mg, 3.00 mmol) was added. The mixture was allowed to stir for about 10 minutes at about 0° C. and was then allowed to warm to room temperature. An additional 6.8 ml of toluene and 6.8 ml of tetrahydrofuran were added to the viscous solution. The reaction mixture was stirred for about forty-eight hours, and then the solids were filtered off and rinsed with a minimum volume of 1:1 toluene/tetrahydrofuran. The filtrate was concentrated in vacuo to a semisolid which was then purified by column chromatography (silica gel; methylene chloride to 2% methanol/methylene chloride) to give 396 mg of pure product (45% yield). LRMS ([M+H]+)=430.9.

reactant | 4-(4-Phenyl-thiazol-2-yl)-phenol | 2.03 mmol, 516 mg | C1(=CC=CC=C1)C=1N=C(SC1)C1=CC=C(C=C1)O | C15H11NOS
reactant | triphenylphosphine | 3.00 mmol, 786 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzyl N-(2-hydroxyethyl)-carbamate | 3.00 mmol, 585 mg | OCCNC(OCC1=CC=CC=C1)=O | C10H13NO3
reactant | 1,1-(azodicarbonyl)-dipiperidine | 3.00 mmol, 757 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | toluene | 6.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6.8 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 6.8 ml | O1CCCC1 | C4H8O
product | Benzyl-{2-[4-(4-phenyl-thiazol-2-yl)-phenoxy]-ethyl}-carbamate | 396 mg, 45% yield | C(C1=CC=CC=C1)OC(NCCOC1=CC=C(C=C1)C=1SC=C(N1)C1=CC=CC=C1)=O | C25H22N2O3S
